US07427616B2
6-Methyl-4-(methylthio)furo[2,3-d]pyrimidine
A solution of 6-methyl-4-chlorofuro[2,3-d]pyrimidine (U.S. Pat. No. 3,577,420, example IG) (219 mg) in acetonitrile (25 mL) was heated under reflux with sodium thiomethoxide (190 mg) for 16 hours. The mixture was filtered and the solids washed with acetonitrile. Evaporation of the solvent afforded the title compound as a white solid (230 mg, 90%);

reactant | 6-methyl-4-chlorofuro[2,3-d]pyrimidine | CC1=CC2=C(N=CN=C2Cl)O1 | C7H5ClN2O
reactant | sodium thiomethoxide | 190 mg | C[S-].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 6-Methyl-4-(methylthio)furo[2,3-d]pyrimidine | 230 mg, 90% | CC1=CC2=C(N=CN=C2SC)O1 | C8H8N2OS
